US04234594
2-[1-(4-Methoxyphenyl)-3-methyl-5-pyrazolyl]amino-2-imidazoline HCl
1-Acetyl-2[1-(4-methoxyphenyl)-3-methyl-5-pyrazolyl]amino-2-imidazoline (13.1 g.) was treated with HCl in methanol as described in Example II to give 7.9 g. of product as the HCl salt, mp 197°-198°.

reactant | 1-Acetyl-2[1-(4-methoxyphenyl)-3-methyl-5-pyrazolyl]amino-2-imidazoline | 13.1 g | C(C)(=O)N1C(=NCC1)NC1=CC(=NN1C1=CC=C(C=C1)OC)C | C16H19N5O2
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | 2-[1-(4-Methoxyphenyl)-3-methyl-5-pyrazolyl]amino-2-imidazoline HCl | Cl.COC1=CC=C(C=C1)N1N=C(C=C1NC=1NCCN1)C | InChI=1S/C14H17N5O.ClH/c1-10-9-13(17-14-15-7-8-16-14)19(18-10)11-3-5-12(20-2)6-4-11;/h3-6,9H,7-8H2,1-2H3,(H2,15,16,17);1H
